US06777431B2
Preparation of Ethyl N-(1-cyanoethyl)-3-aminopropionic acid
To a suspension of β-alanine ethyl ester hydrochloride (3.23 g, 0.021 mol) in DCM (80 mL) is added Et3N (3.0 mL, 0.021 mol). The resulting mixture is stirred at room temperature for 10 minutes, then acetaldehyde (1.2 mL, 0.021 mol) is added, followed by the drop-wise addition of TMSCN (2.86 mL, 0.021 mol). The resulting mixture is stirred at room temperature for about 18 hours, then is diluted with DCM (100 mL) and is washed with brine (100 mL), dried (Na2SO4), and concentrated in vacuo. The crude mixture is purified by flash column chromatography on silica gel (7:3 EtOAc/hexane). The title compound is isolated as its hydrochloride salt.

reactant | β-alanine ethyl ester hydrochloride | 0.021 mol, 3.23 g | Cl.C(C)OC(CCN)=O
reactant | Et3N | 0.021 mol, 3.0 mL | CCN(CC)CC | C6H15N
reactant | acetaldehyde | 0.021 mol, 1.2 mL | C(C)=O | C2H4O
reactant | TMSCN | 0.021 mol, 2.86 mL | [Si](C)(C)(C)C#N | C4H9NSi
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | Ethyl N-(1-cyanoethyl)-3-aminopropionic acid | C(C)C(C(=O)O)CNC(C)C#N | C8H14N2O2
